US07534894B2
A mixture of N-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-2-butyl-1-benzofuran-3-carboxamide (1.5 g, 2.64 mmol), prepared in the previous step, bromoacetonitrile (220 μL, 3.16 mmol) and potassium carbonate (1.862 g, 13.5 mmol) in 75 mL of DMF was stirred under nitrogen at room temperature for 23 h. The reaction was partitioned between methylene chloride and water. If an emulsion forms saturated NaCl can be added to separate it. The organic layer was separated, extracted multiple times with water, dried (MgSO4), and the solvent removed under reduced pressure to give N-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-1-benzofuran-3-carboxamide (1.1 g, 69%) as a yellow oily solid, MS (ESI) m/z 607 [M+H]+. Elemental Analysis for C35H31BrN2O3: Calc'd: C, 69.19; H, 5.14; N, 4.61; Found: C, 67.76; H, 5.44; N, 4.29

reactant | N-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-2-butyl-1-benzofuran-3-carboxamide | 2.64 mmol, 1.5 g | C(C1=CC=CC=C1)N(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CC2=CC=C(C=C2)C2=CC(=C(C=C2)O)Br | C33H30BrNO3
reactant | bromoacetonitrile | 3.16 mmol, 220 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 13.5 mmol, 1.862 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-2-butyl-1-benzofuran-3-carboxamide | 1.1 g, 69% | C(C1=CC=CC=C1)N(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CC2=CC=C(C=C2)C2=CC(=C(C=C2)OCC#N)Br | C35H31BrN2O3
